US07148173B2
Preparation of lithium [1-(2-trimethylsiloxyethyl)indenide]
10.3 ml (16.4 mmol) of a 1.6 M butyllithium solution in hexane was added to 3.8 g (16.4 mmol) of [3-(2-trimethylsiloxyethyl)indene] in ether at −78° C. The immediate formation of a white solid was observed. The mixture was maintained under stirring for 2 h. Then the solvent was removed under vacuum and the residue was washed twice with 25 ml of hexane to give a white solid. (3.6 g, 15 mmol, yield: 91.5%).

reactant | butyllithium | 1.6 M | C(CCC)[Li]
reactant | 3-(2-trimethylsiloxyethyl)indene | C[Si](OCCC1=CCC2=CC=CC=C12)(C)C | C14H20OSi
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
product | lithium [1-(2-trimethylsiloxyethyl)indenide] | yield: 91.5% | C[Si](OCC[C-]1C=CC2=CC=CC=C12)(C)C.[Li+] | InChI=1S/C14H19OSi.Li/c1-16(2,3)15-11-10-13-9-8-12-6-4-5-7-14(12)13;/h4-9H,10-11H2,1-3H3;/q-1;+1
